US04663332
A mixture of 8.25 g 3-[(4-acetyl-3-hydroxy-2-propyl phenoxy)methyl]benzonitrile, 5.20 g sodium azide and 4.30 g ammonium chloride in 125 mL anhydrous dimethylformamide was stirred and heated at 120° for 6 hr. The solvent was removed in vacuo and the residue was treated with 250 mL water and acidified with 10 mL 6N hydrochloric acid. The resulting solid was recrystallized from ethanol-water to give 7.78 g, mp 194°-195° of 1-[2-hydroxy-3-propyl-4-[[3-(1H-tetrazol-5-yl)phenyl]methoxy]phenyl]ethanone.

reactant | 3-[(4-acetyl-3-hydroxy-2-propyl phenoxy)methyl]benzonitrile | 8.25 g | C(C)(=O)C1=C(C(=C(OCC=2C=C(C#N)C=CC2)C=C1)CCC)O | C19H19NO3
reactant | sodium azide | 5.20 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 4.30 g | [Cl-].[NH4+]
solvent | dimethylformamide | 125 mL | CN(C=O)C | C3H7NO
product | 1-[2-hydroxy-3-propyl-4-[[3-(1H-tetrazol-5-yl)phenyl]methoxy]phenyl]ethanone | 7.78 g | OC1=C(C=CC(=C1CCC)OCC1=CC(=CC=C1)C1=NN=NN1)C(C)=O | C19H20N4O3
